US07423181B2
4-(2-Dimethylamino-ethoxy)-3-formyl-benzeneboronic acid
A stirred solution of [2-(4-bromo-2-[1,3]dioxan-2-yl-phenoxy)-ethyl]-dimethyl-amine (15 mmol) in dry THF (100 mL) was cooled to −78° C. and added n-BuLi (16.5 mmol) dropwise. The reaction was left for 30 min at −78° C. and added triisopropyl borate (22.5 mmol). The reaction was heated to room temperature, was added 2M HCl (aq, 50 mL) and was left for an additional, hour. The mixture was added 1M Na2CO3 to neutral pH and was extracted with EtOAc. The organic phase was washed with water, dried (Na2SO4) and evaporated in vacuo. Addition of EtOAc afforded beige crystals that was filtered of and was used without further purification.

reactant | [2-(4-bromo-2-[1,3]dioxan-2-yl-phenoxy)-ethyl]-dimethyl-amine | 15 mmol | BrC1=CC(=C(OCCN(C)C)C=C1)C1OCCCO1 | C14H20BrNO3
reactant | n-BuLi | 16.5 mmol | [Li]CCCC
reactant | triisopropyl borate | 22.5 mmol | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2M, 50 mL | Cl | ClH
reactant | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(2-Dimethylamino-ethoxy)-3-formyl-benzeneboronic acid | CN(CCOC1=C(C=C(C=C1)B(O)O)C=O)C | C11H16BNO4
